US04451676
2,6-di-tertiary-butyl phenol (4.1 g; 20 mmol), isobutyraldehyde (3 ml; 33 mmol), dimethylamine (1.5 g; 34 mmol) dissolved in isopropanol (7.5 g) were charged to a 100 ml glass vessel and refluxed at ambient pressure under nitrogen for 48 hours. The resultant reaction mixture was allowed to cool to ambient temperature and concentrated to a yellow oil which was recrystallized from a mixture of ethanol and water (90:10) to give yellow crystals (3.7 g; 71% yield) of 1,1-dimethyl-2-(3',5'-di-t-butyl-4'-hydroxyphenyl)ethene as characterized by VPC, mass spectroscopy and NMR.

reactant | 2,6-di-tertiary-butyl phenol | 20 mmol, 4.1 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | isobutyraldehyde | 33 mmol, 3 ml | C(C(C)C)=O | C4H8O
reactant | dimethylamine | 34 mmol, 1.5 g | CNC | C2H7N
solvent | isopropanol | 7.5 g | C(C)(C)O | C3H8O
product | 1,1-dimethyl-2-(3',5'-di-t-butyl-4'-hydroxyphenyl)ethene | 3.7 g, 71% yield | CC(=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C | C18H28O
